US06054605
2,3-difluoro-6-trifluoromethylbenzaldehyde (Compound No. 44)
2.0 g of 2,3-difluoro-6-trifluoromethylbenzonitrile was dissolved in 20 ml of anhydrous dichloromethane and the resultant solution was cooled down to -78° C. under a nitrogen atmosphere. To the solution was then gradually added dropwise with 7.1 ml of 1.5 M toluene solution of diisobutyl aluminium hydride (DIBAL) over 30 minutes. After stirring the solution at -78° C. for 1 hour, the solution was allowed to room temperature. The solution was then added with 7 ml of saturated aqueous solution of ammonium chloride, stirred for 30 minutes and subsequently added with 33 ml of 5% sulfuric acid. The mixture was then extracted with ether, and the organic layer obtained was washed with saturated saline solution and was then dried over anhydrous magnesium sulfate. After a process for the concentration, the organic solution was purified by using silica gel column chromatography to obtain 1.36 g of the title compound (nD 20.6-1.4357).

reactant | 2,3-difluoro-6-trifluoromethylbenzonitrile | 2.0 g | FC1=C(C#N)C(=CC=C1F)C(F)(F)F | C8H2F5N
reactant | diisobutyl aluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sulfuric acid | 33 ml | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | toluene | 1.5 M, 7.1 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-difluoro-6-trifluoromethylbenzaldehyde | 1.36 g | FC1=C(C=O)C(=CC=C1F)C(F)(F)F | C8H3F5O
